US07994204B2
1-Ethyl-2(4-methylphenoxy)-1H-imidazole
A mixture of the compound obtained in Example 1-(1) (30.27 g), 4-cresol (17.69 g), Cs2CO3 (53.43 g) and N,N′-dimethylpropyleneurea (DMPU) (136 ml) was stirred at 200° C. for 3 hours. The mixture was cooled to room temperature, diluted with water, and extracted with AcOEt. After washing with brine, the organic layer was dried over MgSO4, filtered and evaporated under reduced pressure to remove the solvent. The resulting crude product was purified by column chromatography (neutral OH-type SiO2, hexane/AcOEt=10% to 40%) to give the titled compound (8.54 g, yellow oil).

reactant | 4-cresol | 17.69 g | C1=CC(=CC=C1O)C | C7H8O
reactant | Cs2CO3 | 53.43 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | N,N′-dimethylpropyleneurea | 136 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | water | O | H2O
product | 1-Ethyl-2(4-methylphenoxy)-1H-imidazole | 8.54 g | C(C)N1C(=NC=C1)OC1=CC=C(C=C1)C | C12H14N2O
